US04670462
Step 2. Preparation of 7-Ethyl-α-(phenylmethyl)-1H-indole-3-acetic Acid Methyl Ester
According to the procedure of E. C. Taylor et al, J. Amer. Chem. Soc., 98, 3037 (1976), a solution of 1-(7-ethyl-1H-indol-3-yl)-3-phenylpropanone (2.77 g, 10 mmol) in a 1:1 mixture of methanol and trimethylorthoformate (25 mL) was added to thallium (III) nitrate trihydrate (4.88 g, 11 mmol), and the mixture was heated under reflux until precipitation of thallium (I) nitrate was complete (about 3 hours). The dark brown mixture was diluted with 25 mL of ether, and the thallium (I) nitrate was removed by filtration. The filtrate was washed successively with 1×50 mL portions of water, 5% aqueous sodium bicarbonate, and water and was then dried over anhydrous MgSO4. Concentration of the filtrate and flash chromatography of the crude product (20% ethyl acetate/hexane, silica gel) have the ester as a red-brown oil (0.98 g, 31.9%).

reactant | 1-(7-ethyl-1H-indol-3-yl)-3-phenylpropanone | 10 mmol, 2.77 g | C(C)C=1C=CC=C2C(=CNC12)CC(CC1=CC=CC=C1)=O | C19H19NO
reactant | trimethylorthoformate | 25 mL | COC(OC)OC | C4H10O3
reactant | thallium (III) nitrate trihydrate | 11 mmol, 4.88 g | O.O.O.[N+](=O)([O-])[O-].[Tl+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | thallium (I) nitrate | [N+](=O)([O-])[O-].[Tl+]
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 7-Ethyl-α-(phenylmethyl)-1H-indole-3-acetic Acid Methyl Ester | COC(C(C1=CNC2=C(C=CC=C12)CC)CC1=CC=CC=C1)=O | C20H21NO2
